US08034812B2
Production of N-(3-{[2-(1,3-thiazol-2-ylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide
A mixture of N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (165 mg, 0.4 mmol), tris(dibenzylideneacetone)dipalladium (0) (37 mg, 0.04 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (46 mg, 0.03 mmol), sodium t-butoxide (77 mg, 0.8 mmol), 2-bromothiazole (98 mg, 0.6 mmol) and N,N-dimethylacetamide (2 mL) was heated to 70° C. under nitrogen atmosphere, and the mixture was stirred for 2 hr. After allowing the reaction mixture to cool to room temperature, ethyl acetate was added to the mixture, and the mixture was washed with saturated aqueous sodium hydrogencarbonate solution, dried over anhydrous magnesium sulfate, and filtrated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/19→ethyl acetate alone) to give the title compound (10 mg, 5%) as a light blue solid.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.4 mmol, 165 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.03 mmol, 46 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | sodium t-butoxide | 0.8 mmol, 77 mg | CC(C)([O-])C.[Na+]
reactant | 2-bromothiazole | 0.6 mmol, 98 mg | BrC=1SC=CN1 | C3H2BrNS
catalyst | tris(dibenzylideneacetone)dipalladium | 0.04 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
product | N-(3-{[2-(1,3-thiazol-2-ylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide | 10 mg, 5% | S1C(=NC=C1)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C23H15F3N6O2S
